US09340556B2
To a suspension of 1-ethyl-4-oxo-1,4-dihydro-[1,3]dioxolo[4,5-g]cinnoline-3-carboxylic acid (12.6 g, 48.1 mmol) in dichloromethane (DCM) (50 mL) stirred under nitrogen at −30° C. was added dropwise a solution of boron tribromide (168 mL, 168 mmol) in dichloromethane (140 mL). The white suspension turned yellowish. The mixture was kept at −30° C. for 1 h and then allowed to warm up to room temperature, and stirred for 40 h. The reaction mixture was again cooled to −30° C., methanol (100 mL) was added, and the resulting mixture was stirred at room temperature over the weekend. The organic solvents were partially removed to afford a light yellow suspension. The solid was collected by filtration and washed with dichloromethane (20 mL). The filtrate was concentrated again to provide more yellow solids that was collected and washed by dichloromethane (20 mL). The solids were combined to afford methyl 1-ethyl-6,7-dihydroxy-4-oxo-1,4-dihydrocinnoline-3-carboxylate (11 g, 35.8 mmol, 74.5% yield). LCMS: (M+H)+: 265.0

reactant | 1-ethyl-4-oxo-1,4-dihydro-[1,3]dioxolo[4,5-g]cinnoline-3-carboxylic acid | 48.1 mmol, 12.6 g | C(C)N1N=C(C(C2=CC3=C(C=C12)OCO3)=O)C(=O)O | C12H10N2O5
reactant | boron tribromide | 168 mmol, 168 mL | B(Br)(Br)Br | BBr3
reactant | methanol | 100 mL | CO | CH4O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 140 mL | ClCCl | CH2Cl2
product | methyl 1-ethyl-6,7-dihydroxy-4-oxo-1,4-dihydrocinnoline-3-carboxylate | 35.8 mmol, 11 g, 74.5% yield | C(C)N1N=C(C(C2=CC(=C(C=C12)O)O)=O)C(=O)OC | C12H12N2O5
